US06512124B1
3,5-Bis(4-Hydroxybenzoyl)nitrobenzene (3)
Into a 250 mL three-necked, round-bottomed flask equipped with a magnetic stirrer, a condenser, and nitrogen inlet, 3,5-bis(4-methoxyphenylcarbonyl)nitrobenzene (6.2 g, 15.8 mmol) and freshly prepared pyridine hydrochloride (100 g) were placed. The mixture was heated under reflux until the solution became homogeneous. It took about 4 h. After cooled down 120° C., the mixture was poured into water. The resulting precipitate was collected and dried. The yellow solid was slurred in boiling toluene and collected by suction filtration to give 5.5 g (96% yield), m.p. 230-231.8° C. Anal. Calcd. for C20H13NO6: C, 66.12%; H, 3.61%; N, 3.86%; O, 26.42%. Found: C, 66.07%; H, 3.64%; N, 3.67%; O, 17.01%. FT-IR (KBr, cm−1): 1321, 1538 (A-NO2), 1602, 1648 (carbonyl), 3420 (Ar-OH). Mass spectrum (m/e): 363 (M+, 100% relative abundance). 1H-NMR (DMSO-d6, δ in ppm): 6.93-6.96 (d, 4H, Ar), 7.76-7.79 (d, 4H, Ar), 8.23 (s 1H, Ar), 8.58 (s, 2H, Ar), 10.66 (s, 2H, OH). 13C-NMR (DMSO-d6, δ in ppm) 115.48, 126.02, 126.65, 132.84, 134.83, 139.44, 147.61, 156.80, 162.70, 191.36.

reactant | 3,5-bis(4-methoxyphenylcarbonyl)nitrobenzene | 15.8 mmol, 6.2 g | COC1=CC=C(C=C1)C(=O)C=1C=C(C=C(C1)C(=O)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C22H17NO6
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 3,5-Bis(4-Hydroxybenzoyl)nitrobenzene | 96% yield | OC1=CC=C(C(=O)C=2C=C(C=C(C2)C(C2=CC=C(C=C2)O)=O)[N+](=O)[O-])C=C1 | C20H13NO6
